US07858796B2
(219) 3-[1-({3-[(methyloxy)amino]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide
The mixture of 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide (40.0 mg, 0.087 mmol) in DMSO (2.0 mL), were added O-methylhydroxylamine hydrochloride (83.5 mg, 1.0 mmol), K2CO3 (35.0 mg, 0.35 mmol) and sodium iodide (0.5 mg). The reaction solution was heated to 80° C. overnight. The reaction mixture was concentrated and purified by reverse phase HPLC (water/CH3CN, 0.1°/o TFA 10-90%) to give the title compound (20.7 mg, 43%).

reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 0.087 mmol, 40.0 mg | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C23H26ClN3O3S
reactant | O-methylhydroxylamine hydrochloride | 1.0 mmol, 83.5 mg | Cl.CON
reactant | K2CO3 | 0.35 mmol, 35.0 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
catalyst | sodium iodide | 0.5 mg | [I-].[Na+]
product | 3-[1-({3-[(methyloxy)amino]propyl}sulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 20.7 mg, 43% | CONCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C24H30N4O4S
